US05462941
1.8 g of o-(3-thenoyl)benzoic acid and 580 mg of hydrazine hydrate were dissolved in 20 ml of ethanol, and the solution was refluxed for 4 hours. After cooling the solution, it was crystallized by adding ether, thereby obtaining 910 mg of 4-(3-thienyl)-1-phthalazinone.

reactant | o-(3-thenoyl)benzoic acid | 1.8 g | C1=C(C=CS1)C(=O)C1=C(C(=O)O)C=CC=C1 | C12H8O3S
reactant | hydrazine hydrate | 580 mg | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(3-thienyl)-1-phthalazinone | 910 mg | S1C=C(C=C1)C1=NNC(C2=CC=CC=C12)=O | C12H8N2OS
